US08859534B2
7-(4-Benzyl-piperazin-1-yl)-benzofuran-2-carboxylic acid ethyl ester
The compound was prepared according to the procedure disclosed in Example 1a starting from benzylpiperazine (16.1 mL, 92.6 mmol) and 7-bromo-benzofuran-2-carboxylic acid ethyl ester (16.6 g, 61.7 mmol). The product was purified by flash chromatography (SiO2; hexane/EtOAc, gradient 0-50%). Yield: 14 g (63%).

reactant | benzylpiperazine | 92.6 mmol, 16.1 mL | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | 7-bromo-benzofuran-2-carboxylic acid ethyl ester | 61.7 mmol, 16.6 g | C(C)OC(=O)C=1OC2=C(C1)C=CC=C2Br | C11H9BrO3
product | 7-(4-Benzyl-piperazin-1-yl)-benzofuran-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1OC2=C(C1)C=CC=C2N2CCN(CC2)CC2=CC=CC=C2 | C22H24N2O3
